US07119115B2
Aqueous 1N sodium hydroxide solution is added to a solution of 0.08 g of 6,6-diphenyl-3-pyrid-3-yl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole in 2 cm3 of tetrahydrofuran. After stirring in the region of 40° C. for about 20 hours, the mixture is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up in 20 cm3 of ethyl acetate. The solution obtained is washed with twice 10 cm3 of water and with 10 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and concentrated under reduced pressure (13 kPa). The residue is taken up in 2 cm3 of diisopropyl ether and drained by suction. 0.035 g of 6,6-diphenyl-3-pyrid-3-yl-6,7-dihydro-1H-indazole is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 6,6-diphenyl-3-pyrid-3-yl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole | 0.08 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1C=NC=CC1)C1=CC=CC=C1 | C31H25N3O2S
solvent | tetrahydrofuran | 2 cm3 | O1CCCC1 | C4H8O
product | 6,6-diphenyl-3-pyrid-3-yl-6,7-dihydro-1H-indazole | 0.035 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)C=1C=NC=CC1)C1=CC=CC=C1 | C24H19N3
